US05461158
2,4-bis(4-methoxybenzylthiomethyl)-4-butanolide
To a stirred solution of 4-methoxybenzylmercaptane (0.47 ml) in THF (6 ml), n-butyllithium/n-hexane (1.6N, 0.18 ml) and 4-(4-methoxybenzylthiomethyl)-2-methylene-4-butanolide (compound No.1-2, 0.76 g) dissolved in THF (4 ml) was added dropwise at about -78° C. under nitrogen atmosphere. The mixture was stirred for an additional 15 minutes at -78° C. After restoring to room temperature, saturated aqueous ammonium chloride solution was added to the mixture. The mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo to give crude oil of the titled compound as a mixture of cis and trans forms. The ratio of cis and trans products is 2.2:1.0.

reactant | 4-(4-methoxybenzylthiomethyl)-2-methylene-4-butanolide | 0.76 g | COC1=CC=C(CSCC2CC(C(=O)O2)=C)C=C1 | C14H16O3S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | n-butyllithium n-hexane | 1.6N, 0.18 ml | C(CCC)[Li].CCCCCC
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 2,4-bis(4-methoxybenzylthiomethyl)-4-butanolide | COC1=CC=C(CSCC2C(=O)OC(C2)CSCC2=CC=C(C=C2)OC)C=C1 | C22H26O4S2
